US05556941
4-N-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-L-asparagine tert.-butyl ester (Compound 10)
4-N-(2-Acetamido-2-deoxy-3,4,6-tri-O-acetyl-β-D-glucopyranosyl)-L-asparagine tert.-butyl ester (Cornpound 11) The N-Z-protected compound 7 (2.2 g) was hydrogenated in the presence of Pd/C and worked up as described above. Yield: 1.63 g. TLC analysis: Rf=0.47 (chloroform/methanol 6:1 )

reactant | 4-N-(2-Acetamido-2-deoxy-3,4,6-tri-O-acetyl-β-D-glucopyranosyl)-L-asparagine tert.-butyl ester | C(C)(C)(C)OC([C@@H](N)CC(N[C@H]1[C@@H]([C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)NC(C)=O)=O)=O | C22H35N3O11
catalyst | Pd/C | [Pd] | Pd
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-N-(2,3,4,6-Tetra-O-acetyl-β-D-glucopyranosyl)-L-asparagine tert.-butyl ester | C(C)(C)(C)OC([C@@H](N)CC(N[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O)=O)=O | C22H34N2O12
